US08044052B2
2-(5-Bromo-2-chlorophenoxy)-5-(trifluoromethyl)pyridine
To a solution of 5-bromo-2-chlorophenol (1.5 g, 7.23 mmol) in DMF (6 mL) was added potassium carbonate (2.5 g, 18.07 mmol) at RT followed by 2-chloro-5-(trifluoromethyl)pyridine (1.3 g, 7.23 mmol) and the mixture was refluxed at 110° C. for 12 h. The reaction mixture was quenched with water and extracted with ethyl acetate three times. The total organic extract was washed with water and brine, dried over sodium sulfate and concentrated under reduced pressure to give the title compound (2.6 g, 100%). 1H NMR (500 MHz, CDCl3): δ 8.38 (s, 1H), 7.95 (d, J=6.5 Hz, 1H), 7.65 (s, 1H), 7.47 (d, J=2 Hz, 1H), 7.12 (m, 2H).

reactant | 5-bromo-2-chlorophenol | 7.23 mmol, 1.5 g | BrC=1C=CC(=C(C1)O)Cl | C6H4BrClO
reactant | potassium carbonate | 18.07 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 7.23 mmol, 1.3 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-(5-Bromo-2-chlorophenoxy)-5-(trifluoromethyl)pyridine | 2.6 g, 100% | BrC=1C=CC(=C(OC2=NC=C(C=C2)C(F)(F)F)C1)Cl | C12H6BrClF3NO
